US08981111B2
A solution of (3,6-dimethylpyrazin-2-yl)(phenyl)methanone (3.02 g, 14.2 mmol) and hydroxylamine hydrochloride (2.47 g, 35.5 mmol) in pyridine (50 mL) was stirred 7 h at 70° C. After removal of the solvent in vacuo, addition of water (100 mL) and extraction with ethyl acetate (2×100 mL), the combined organic layers were washed with water (100 mL), dried over MgSO4 and concentrated in vacuo to afford 1-(3,6-dimethylpyrazin-2-yl)-N-hydroxy-1-phenylmethanimine as an orange honey [3.39 g, yield 99%; HPLC/MS: m/z=228 (M+H); log P(HCOOH)=1.70].

reactant | (3,6-dimethylpyrazin-2-yl)(phenyl)methanone | 14.2 mmol, 3.02 g | CC=1C(=NC(=CN1)C)C(=O)C1=CC=CC=C1 | C13H12N2O
reactant | hydroxylamine hydrochloride | 35.5 mmol, 2.47 g | Cl.NO
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 1-(3,6-dimethylpyrazin-2-yl)-N-hydroxy-1-phenylmethanimine | yield 99% | CC=1C(=NC(=CN1)C)C(=NO)C1=CC=CC=C1 | C13H13N3O
